US04024181
(5-cyano-2-oxo-cyclopentyl)acetaldehyde-ethylenethioacetal VI
18 g of the mixture of (2-oxo-cyclopent-4-enyl)acetaldehyde-ethylenethioacetal and (2-oxo-cyclopent-5-enyl)acetaldehyde-ethylene-thioacetal according to stage 2 were dissolved in 150 ml of methanol and 9.2 g of acetonecyanohydrin and a solution of 7.5 g of Na2CO3 in 20 ml of water were added. After stirring for 3 hours at room temperature, all the solvent was distilled off in vacuo, the residue was taken up in 500 ml of diethyl ether and 100 ml of H2O, and the ether phase was washed twice with 50 ml of H2O, dried over sodium sulfate and condensed. The residue was triturated with a small amount of ether and 12 g of crude product were obtained which melted at about 98° C.

reactant | (2-oxo-cyclopent-4-enyl)acetaldehyde-ethylenethioacetal | C1CSC(CC2C(CC=C2)=O)O1 | C9H12O2S
reactant | acetonecyanohydrin | 9.2 g | CC(C)(C#N)O | C4H7NO
reactant | Na2CO3 | 7.5 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | (5-cyano-2-oxo-cyclopentyl)acetaldehyde-ethylenethioacetal | 12 g | C1CSC(CC2C(CCC2C#N)=O)O1 | C10H13NO2S
